### PR TITLE
[Merged by Bors] - feat: Add `Ideal.associatesEquivIsPrincipal`

### PR DESCRIPTION
**Pull request by xroblot**
For `R` a domain, Define the equivalence between `R/Rˣ` and the principal ideals of `R` defined by sending the
class of `x` to the principal ideal generated by `x`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 1]
```diff
@@ -519,6 +519,26 @@ theorem span_singleton_eq_span_singleton {α : Type u} [CommRing α] [IsDomain 
   apply and_congr <;> rw [span_singleton_le_span_singleton]
 #align ideal.span_singleton_eq_span_singleton Ideal.span_singleton_eq_span_singleton
 
+/-- The equivalence between `R/Rˣ` and the principal ideals of `R` defined by sending the
+class of `x` to the principal ideal generated by `x`. -/
+noncomputable def equivIsPrincipal (R : Type*) [CommRing R] [IsDomain R] :
+    Quotient (MulAction.orbitRel Rˣ R) ≃ {I : Ideal R | Submodule.IsPrincipal I} := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Basic.lean:525]: Isn't the RHS `Associates R`?

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Basic.lean:525]: And the RHS should maybe be `Subtype` instead.

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Basic.lean:525]: Yes, indeed! It has a monoid structure so I can generalize to `equivIsPrincipal` being a MulEquiv. Thanks!

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Basic.lean:525]: > And the RHS should maybe be `Subtype` instead.

I guess it is better to have function with values in types indeed.

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Basic.lean:525]: RHS does not have a multiplicative structure though. Maybe make it into a `Submonoid (Ideal R)`? And it is even an ordered iso. But I couldn't find a ordered-monoid-iso structure in mathlib.

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Basic.lean:525]: Oh right, it's the ideals that have a structure. Well, I guess that will be for another PR...

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Basic.lean]: Maybe make it an order iso? And the inverse is given by `Submodule.IsPrincipal.generator`.

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Basic.lean]: Yeah, I was thinking about something like that. But maybe in that case, it would be better to move all the `Submodule.IsPrincipal.generator` stuff in  so that we do not need to import `Mathlib.RingTheory.PrincipalIdealDomain` to have access to the isomorphism but the file `Ideal.Basic` is quite long already... I guess one way to do things would be create a `IsPrincipal` file...

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Basic.lean]: Yeah but maybe for another PR.

**Comment by erdOne** [comment]
maintainer merge

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 2]
```diff
@@ -519,6 +519,24 @@ theorem span_singleton_eq_span_singleton {α : Type u} [CommRing α] [IsDomain 
   apply and_congr <;> rw [span_singleton_le_span_singleton]
 #align ideal.span_singleton_eq_span_singleton Ideal.span_singleton_eq_span_singleton
 
+/-- The equivalence between `Associates R` and the principal ideals of `R` defined by sending the
+class of `x` to the principal ideal generated by `x`. -/
+noncomputable def equivIsPrincipal (R : Type*) [CommRing R] [IsDomain R] :
```
Comment (jcommelin) [inline Mathlib/RingTheory/Ideal/Basic.lean:524]:
```suggestion
noncomputable def associatesEquivIsPrincipal (R : Type*) [CommRing R] [IsDomain R] :
```
Or maybe
```suggestion
noncomputable def _root_.Associates.equivIsPrincipal (R : Type*) [CommRing R] [IsDomain R] :
```
Same below

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 3]
```diff
@@ -519,6 +519,24 @@ theorem span_singleton_eq_span_singleton {α : Type u} [CommRing α] [IsDomain 
...
+  refine Equiv.ofBijective (fun x ↦ ⟨Ideal.span {Quot.out x}, ⟨Quot.out x, rfl⟩⟩)
+    ⟨fun  _ _ h ↦ ?_, fun ⟨I, hI⟩ ↦ ?_⟩
+  · rw [Subtype.mk_eq_mk, span_singleton_eq_span_singleton] at h
+    exact Quotient.out_equiv_out.mp h
+  · obtain ⟨x, hx⟩ := hI
+    refine ⟨⟦x⟧, ?_⟩
+    rw [Subtype.mk_eq_mk, hx, submodule_span_eq, span_singleton_eq_span_singleton]
+    exact Associates.mk_quot_out x
+
+theorem equivIsPrincipal_apply (R : Type*) [CommRing R] [IsDomain R] (x : R) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/Ideal/Basic.lean:535]: Please change this name as well.
Also, could this be a simp lemma?

File: Mathlib/RingTheory/Ideal/Basic.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Basic.lean:524]: I think I'd rather keep this def in the `Ideal` namespace, so I'll go for the first suggestion

File: Mathlib/RingTheory/Ideal/Basic.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Basic.lean:535]: Yes, good point.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
